US05357033
A mixture of 63.3 g, (0.6735 mol), of phenol, 8.51 g, (0.0842 mol) of acetoacetamide and 40 ml of trifluoroacetic acid was placed in a 500 ml, 3-necked flask equipped with a gas inlet tube and a condenser. The mixture was stirred under nitrogen and BF3 gas was introduced while the reaction temperature was maintained at 20° C. A total of 17.6 g of BF3 gas was added over a period of 3 hr. The reaction mixture was diluted with 200 ml of ether and the ether solution was washed with water three times. The ether and excess phenol were removed under vacuum maintaining the temperature below 90° C. When the viscous residue was dissolved in 50 ml of methanol, a white precipitate formed. The white solid was filtered, washed with cold methanol and dried. Based on method of preparation, there was obtained 3,3-bis(4-hydroxyphenyl)butyramide referred to below as "bisphenol". The yield of the product was 13.47 g (59.0%), mp=216°-216.5° C. 1H nmr (ppm in DMSO-d6): C-CH3 (s)1.71(3), CH2 (s) 2.79(2), NH2 6.50 & 6.85(2), Haarom (d) 6.95(J=8.55Hz (4), Hbarom (d) 6.85 (J=8.54Hz) (4), OH(s) 9.12 (2) . 13C nmr(ppm in DMSO-d6): C1 139.94, C2 127.83, C3 114.49, C4 154.94, C5 43.68, C6 28.25, C7 46. 83 C8 172. 56.

reactant | phenol | 0.6735 mol, 63.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | acetoacetamide | 0.0842 mol | C(CC(=O)C)(=O)N | C4H7NO2
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | BF3 | B(F)(F)F | BF3
reactant | BF3 | 17.6 g | B(F)(F)F | BF3
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3,3-bis(4-hydroxyphenyl)butyramide | OC1=CC=C(C=C1)C(CC(=O)N)(C)C1=CC=C(C=C1)O | C16H17NO3
